US06833371B2
Benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate (BOP) (0.430 g, 0.973 mmol) was added to a suspension of 5-pyridin-2-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid (0.250 g, 0.811 mmol) and benzylamine (0.106 mL, 0.973 mmol) in tetrahydrofuran (10 mL) containing triethylamine (0.339 ml, 2.43 mmol). The reaction mixture was stirred overnight at room temperature, diluted with ethyl ether (10 mL) and washed with a saturated aqueous solution of sodium bicarbonate (10 mL). The organic layer was collected, concentrated under reduced pressure and crude the product was purified by column chromatography on silica gel to give 5-pyridin-2-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid benzylamide (0.280 g, 86%).

reactant | Benzotriazol-1-yloxy-tris(dimethylamino)-phosphonium hexafluorophosphate | 0.973 mmol, 0.430 g | F[P-](F)(F)(F)(F)F.N1(N=NC2=C1C=CC=C2)O[P+](N(C)C)(N(C)C)N(C)C
reactant | 5-pyridin-2-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid | 0.811 mmol, 0.250 g | N1=C(C=CC=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=C(C2)C(=O)O | C13H7F3N4O2
reactant | benzylamine | 0.973 mmol, 0.106 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | triethylamine | 2.43 mmol, 0.339 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | ethyl ether | 10 mL | C(C)OCC | C4H10O
product | 5-pyridin-2-yl-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-2-carboxylic acid benzylamide | 0.280 g, 86% | C(C1=CC=CC=C1)NC(=O)C1=NN2C(N=C(C=C2C(F)(F)F)C2=NC=CC=C2)=C1 | C20H14F3N5O
